US04103030
To a solution of lithium aluminum hydride (0.30 g) in ether (10 ml) was added a solution of 2-(m-chlorophenyl)-2-phenylcyclopropanecarboxylic acid N,N-dimethylamide (0.900 g) in ether (15 ml) under ice-cooling, and the resulting mixture was stirred under reflux for 3 hours. The reaction mixture was cooled, admixed with a 10 % aqueous solution of sodium hydroxide (20 ml) and extracted with ether. The ether extract was dried over anhydrous magnesium sulfate and evaporated to afford N,N-dimethyl-2-(m-chlorophenyl)-2-phenylcyclopropylmethylamine as an oily substance. M.P. 188° - 190° C. (hydrochloride).

reactant | lithium aluminum hydride | 0.30 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 2-(m-chlorophenyl)-2-phenylcyclopropanecarboxylic acid N,N-dimethylamide | 0.900 g | CN(C(=O)C1C(C1)(C1=CC=CC=C1)C1=CC(=CC=C1)Cl)C | C18H18ClNO
reactant | sodium hydroxide | 20 ml | [OH-].[Na+]
solvent | ether | 10 ml | CCOCC | C4H10O
solvent | ether | 15 ml | CCOCC | C4H10O
product | N,N-dimethyl-2-(m-chlorophenyl)-2-phenylcyclopropylmethylamine | CN(C)CC1C(C1)(C1=CC=CC=C1)C1=CC(=CC=C1)Cl | C18H20ClN
